US08119673B2
To a solution of 3-(2,4-dimethyl-6-(propionyloxy)phenyl)-3-methylbutanoic acid (160 mg, 0.57 mmol) and (S)—N-(5-chloro-2-(1H-tetrazol-1-yl)benzyl)-1-((R)-2-(4-fluorophenyl)-2-hydroxyacetyl)-4,5-dihydro-1H-pyrazole-5-carboxamide (263 mg, 0.57 mmol) in DCM (3 mL) and DMF (3 mL) was added EDC (165 mg, 0.86 mmol) and DMAP (7 mg, 0.06 mmol). The clear colorless solution was stirred at rt for 48 h. The mixture was diluted with DCM and washed with water, 1M HCl and sat NaHCO3. The organic phase was dried, filtered, evaporated and purified by flash chromatography (DCM/EtOAc gradient from 4:1 to 2:1) to give (R)-2-((S)-5-(5-chloro-2-(1H-tetrazol-1-yl)benzylcarbamoyl)-4,5-dihydro-1H-pyrazol-1-yl)-1-(4-fluorophenyl)-2-oxoethyl 3-(2,4-dimethyl-6-(propionyloxy)phenyl)-3-methylbutanoate (380 mg, 92%) as a semisolid.

reactant | 3-(2,4-dimethyl-6-(propionyloxy)phenyl)-3-methylbutanoic acid | 0.57 mmol, 160 mg | CC1=C(C(=CC(=C1)C)OC(CC)=O)C(CC(=O)O)(C)C | C16H22O4
reactant | (S)—N-(5-chloro-2-(1H-tetrazol-1-yl)benzyl)-1-((R)-2-(4-fluorophenyl)-2-hydroxyacetyl)-4,5-dihydro-1H-pyrazole-5-carboxamide | 0.57 mmol, 263 mg | ClC=1C=CC(=C(CNC(=O)[C@@H]2CC=NN2C([C@H](O)C2=CC=C(C=C2)F)=O)C1)N1N=NN=C1 | C20H17ClFN7O3
reactant | EDC | 0.86 mmol, 165 mg
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.06 mmol, 7 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | (R)-2-((S)-5-(5-chloro-2-(1H-tetrazol-1-yl)benzylcarbamoyl)-4,5-dihydro-1H-pyrazol-1-yl)-1-(4-fluorophenyl)-2-oxoethyl 3-(2,4-dimethyl-6-(propionyloxy)phenyl)-3-methylbutanoate | 380 mg, 92% | CC1=C(C(=CC(=C1)C)OC(CC)=O)C(CC(=O)O[C@@H](C(=O)N1N=CC[C@H]1C(NCC1=C(C=CC(=C1)Cl)N1N=NN=C1)=O)C1=CC=C(C=C1)F)(C)C | C36H37ClFN7O6
